US06214873B1
(7) Synthesis of 2-acetamido-1,3-bis(tert-butyldimethylsilyloxy)-2-(2-(4-(1-oxo-5-phenylpentyl)phenyl)ethyl)propane
To a solution of dimethyl sulfoxide (0.73 ml) in dichloromethane (8 ml) was added oxalyl chloride (0.23 ml) under a nitrogen atmosphere at −78° C., and then 2-acetamido-1,3-bis(tert-butyldimethylsilyloxy)-2-(2-(4-(1-hydroxy-5-phenylpentyl)phenyl)ethyl)propane (1.1 g) in dichloromethane (7 ml), and the mixture was stirred at said temperature for 1 hour. Then, triethylamine (1.2 ml) was added thereto and the temperature of the mixture was raised to room temperature. The reaction mixture was poured into water and the mixture was extracted with chloroform. The chloroform layer was washed with saturated brine, dried over anhydrous magnesium sulfate and the solvent was distilled away under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent; hexane: ethyl acetate=4:1) to give the title compound (0.91 g) as a colorless transparent oily substance.

reactant | dimethyl sulfoxide | 0.73 ml | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 0.23 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-acetamido-1,3-bis(tert-butyldimethylsilyloxy)-2-(2-(4-(1-hydroxy-5-phenylpentyl)phenyl)ethyl)propane | 1.1 g | C(C)(=O)NC(CO[Si](C)(C)C(C)(C)C)(CO[Si](C)(C)C(C)(C)C)CCC1=CC=C(C=C1)C(CCCCC1=CC=CC=C1)O | C36H61NO4Si2
reactant | triethylamine | 1.2 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 2-acetamido-1,3-bis(tert-butyldimethylsilyloxy)-2-(2-(4-(1-oxo-5-phenylpentyl)phenyl)ethyl)propane | 0.91 g | C(C)(=O)NC(CO[Si](C)(C)C(C)(C)C)(CO[Si](C)(C)C(C)(C)C)CCC1=CC=C(C=C1)C(CCCCC1=CC=CC=C1)=O | C36H59NO4Si2
